US08802679B2
3 chloro-4-(piperazin-1-yl)benzoic acid hydrochloride (142 mg) was suspended in DMF (3 ml), and tert-butyl (2-{[3-(2-chloropyrimidin-5-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate (190 mg) and DIPEA (371 mg) were added thereto, followed by stirring at 130° C. overnight. The reaction mixture was concentrated under reduced pressure, and then a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with CHCl3. The organic layer was dried over Na2SO4 and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH). The product was dissolved in dioxane, and 4 M hydrogen chloride/dioxane (1 ml) was added thereto, followed by stirring at room temperature overnight. The precipitated solid was collected by filtration to obtain 3-chloro-4-{4-[5-(3-{[glycyl(methyl)amino)methyl}phenyl)pyrimidin-2-yl]piperazin-1-yl}benzoic acid dihydrochloride (72 mg).

reactant | chloro-4-(piperazin-1-yl)benzoic acid hydrochloride | 142 mg | Cl.ClC1=C(C(=O)O)C=CC(=C1)N1CCNCC1
reactant | tert-butyl (2-{[3-(2-chloropyrimidin-5-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate | 190 mg | ClC1=NC=C(C=N1)C=1C=C(CN(C(CNC(OC(C)(C)C)=O)=O)C)C=CC1 | C19H23ClN4O3
reactant | DIPEA | 371 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-chloro-4-{4-[5-(3-{[glycyl(methyl)amino)methyl}phenyl)pyrimidin-2-yl]piperazin-1-yl}benzoic acid dihydrochloride | 72 mg | Cl.Cl.ClC=1C=C(C(=O)O)C=CC1N1CCN(CC1)C1=NC=C(C=N1)C1=CC(=CC=C1)CN(C)C(CN)=O | InChI=1S/C25H27ClN6O3.2ClH/c1-30(23(33)13-27)16-17-3-2-4-18(11-17)20-14-28-25(29-15-20)32-9-7-31(8-10-32)22-6-5-19(24(34)35)12-21(22)26;;/h2-6,11-12,14-15H,7-10,13,16,27H2,1H3,(H,34,35);2*1H
